US06737425B1
98-3) 7-Cyano-8-methyl-7-phenylnonane-4-one
7-Cyano-8-methyl-7-phenylnonane-4-ol, 70 mg 0.27 mmol, was dissolved in dimethyl sulfoxide 3.00 ml and triethylamine 0.70 ml. A sulfur trioxide-pyridine complex 64.7 mg was added thereto. After 1 hour, an additional sulfur trioxide-pyridine complex 80.0 mg was added thereto. The reaction mixture was partitioned by adding aqueous saturated sodium bicarbonate and ethyl acetate. The organic layer was washed with aqueous ammonium chloride and then with brine, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound, 50 mg 0.19 mmol, 72.0%, was obtained as a colorless syrup.

reactant | 7-Cyano-8-methyl-7-phenylnonane-4-ol | C(#N)C(CCC(CCC)O)(C(C)C)C1=CC=CC=C1 | C17H25NO
solvent | dimethyl sulfoxide | 3.00 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
product | 7-Cyano-8-methyl-7-phenylnonane-4-one | C(#N)C(CCC(CCC)=O)(C(C)C)C1=CC=CC=C1 | C17H23NO
